US20010041703A1
E. 2-tert-Butoxycarbonylamino-3-(3,5-dichloro-benzyloxy)-propionic acid
To a stirred solution of N-t-butoxycarbonyl-D-serine (10.0 g, 48.7 mol) in N,N-dimethylformamide (150 mL) at about 0 ° C. was added sodium hydride (4.0 g, 60% dispersion in mineral oil, 99.84 mmol) portionwise. The mixture was stirred for about 30 minutes, and then a solution of 1,3-dichloro-5-chloromethyl-benzene (9.5 mL, 48.7 mmol) in ethyl ether (40 mL) was added. The reaction was allowed to slowly warm to room temperature overnight. The reaction was then quenched with 1N NaOH, the mixture extracted three times with dichloromethane. The combined organic layers were then washed three times with water, 1N HCl, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to give crude product. The original basic aqueous layer was then acidified to about pH 4 with 1N HCl, and the mixture was extracted three times with dichloromethane. These three organic layers were combined and washed three times each with water and brine then dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to give an additional 620 mg of crude product. Both product fractions were combined and purified by silica gel chromatography using 5% methanol/chloroform as eluent and yielded the title compound of part 1-E (12.39 g, 70%): −APcl MS (M−1)− 363, (M−3)− 361; 1H NMR=400 MHz (CDCl3) 8: 7.13 (arom, s, 3H), 5.42 (NH, d, 1H), 4.50 (CHCO2H, m, 1H), 4.45 (PhCH2O, s, 2H), 3.82 (CH2OBz, d of d, 2H), 1.43 (BOC, s, 9H).

reactant | N-t-butoxycarbonyl-D-serine | 48.7 mol, 10.0 g | C(C)(C)(C)OC(=O)N[C@H](CO)C(=O)O | C8H15NO5
reactant | sodium hydride | 99.84 mmol, 4.0 g | [H-].[Na+]
reactant | 1,3-dichloro-5-chloromethyl-benzene | 48.7 mmol, 9.5 mL | ClC1=CC(=CC(=C1)CCl)Cl | C7H5Cl3
reactant | HCl | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | ethyl ether | 40 mL | C(C)OCC | C4H10O
product | 2-tert-Butoxycarbonylamino-3-(3,5-dichloro-benzyloxy)-propionic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)COCC1=CC(=CC(=C1)Cl)Cl | C15H19Cl2NO5
